USRE029439
A mixture of 5-mercapto-3-phenyl-1,2,4-thiadiazole (76 parts), potassium carbonate (58 parts), chloroacetic acid (38 parts) and water (100 parts) was heated at reflux for 1 hour. The solution was filtered hot, cooled, acidified, and the solid separated to give (3-phenyl-1,2,4-thiadiazol-5-ylthio)acetic acid (50 parts, 51% yield), melting point 97° C.

reactant | 5-mercapto-3-phenyl-1,2,4-thiadiazole | SC1=NC(=NS1)C1=CC=CC=C1 | C8H6N2S2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetic acid | ClCC(=O)O | C2H3ClO2
solvent | water | O | H2O
product | (3-phenyl-1,2,4-thiadiazol-5-ylthio)acetic acid | 51% yield | C1(=CC=CC=C1)C1=NSC(=N1)SCC(=O)O | C10H8N2O2S2
